US06740647B1
e) 2-(N-Boc-Aminomethyl)-5-methylthiazole-4-carboxamide
2-(N-Boc-Aminomethyl)-5-methylthiazole-4-carboxylic acid (6.8 g, 25 mmol) was dissolved in THF (100 ml), and triethylamine (2.53 g, 25 mmol) was added. After the mixture had been cooled to −20° C., a solution of isobutyl chloroformate (3.41 g, 25 mmol) in THF (10 ml) was added dropwise. After the mixture had been stirred for 30 minutes at −20° C., ammonia gas was passed into the pale brown suspension for 45 minutes. The mixture was then warmed to room temperature. The residue was filtered off with suction and extracted with THF, and the filtrates were concentrated.

reactant | 2-(N-Boc-Aminomethyl)-5-methylthiazole-4-carboxylic acid | 25 mmol, 6.8 g | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(=O)O)C | C11H16N2O4S
reactant | triethylamine | 25 mmol, 2.53 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 25 mmol, 3.41 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | N | H3N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(N-Boc-Aminomethyl)-5-methylthiazole-4-carboxamide | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(=O)N)C | C11H17N3O3S
